US03931143
B. 1-t-Butylhydrazo-1-cyano-1-cyclopropylethane
A solution of 8.7g methyl cyclopropyl ketone t-butylhydrazone in 20 ml liquid hydrocyanic acid was heated for 6 hours in a pressure bottle at 60°C. The solution was cooled, poured into ice water and the aqueous solution extracted twice with ether. The ether extracts were combined, washed with saturated sodium bicarbonate solution, dried over sodium sulfate, filtered and the ether evaporated off. The yield was 10.0g (99%) of a brown liquid. The infrared spectrum was consistent with the structure of the proposed product.

reactant | methyl cyclopropyl ketone t-butylhydrazone | 8.7g | C(C)(C)(C)NN=C(C)C1CC1 | C9H18N2
reactant | hydrocyanic acid | C#N | CHN
product | 1-t-Butylhydrazo-1-cyano-1-cyclopropylethane | C(C)(C)(C)NNC(C)(C1CC1)C#N | C10H19N3
